US05990133
4-Chloro-3-(4-methyl-3-pyridyl)nitrobenzene (D61)
The title compound was prepared by a Suzuki coupling of 3-bromo-4-chloronitrobenzene and 4-methyl-3-pyridylboronic acid. This gave (D61) (0.2 g, 33%).

reactant | 3-bromo-4-chloronitrobenzene | BrC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3BrClNO2
reactant | 4-methyl-3-pyridylboronic acid | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
product | 4-Chloro-3-(4-methyl-3-pyridyl)nitrobenzene | ClC1=C(C=C(C=C1)[N+](=O)[O-])C=1C=NC=CC1C | C12H9ClN2O2
